US06479490B2
To a methanol solution (15 mL) at 0° C. was dropwise added thionyl chloride (6.4 mL, 0.088 mol). After 15 minutes, 3-hydroxy-2-nitrobenzoic acid (4 g, 0.022 mol) was added and the resulting mixture was stirred at room temperature for 72 hours. Volatile was removed under vacuo and the residue was partitioned between water and ethyl acetate. The organic layer was separated, washed with water and saturated sodium chloride, and was dried over sodium sulfate. After concentration, the crude product was recrystallized from dichloromethane and hexane to gave 4.5 g of methyl 3-hydroxy-2-nitrobenzoate.

reactant | thionyl chloride | 0.088 mol, 6.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxy-2-nitrobenzoic acid | 0.022 mol, 4 g | OC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H5NO5
reactant | methanol | 15 mL | CO | CH4O
product | methyl 3-hydroxy-2-nitrobenzoate | 4.5 g | OC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C8H7NO5
